US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxylate (4.0 g), 2,4-dichloronitrobenzene (3.8 g) and dimethyl sulfoxide (55 ml), ethyl 2-(5-chloro-2-nitroanilino)benzo[b]thiophene-3-carboxylate (3.2 g) was obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | 4.0 g | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 2,4-dichloronitrobenzene | 3.8 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | dimethyl sulfoxide | 55 ml | CS(=O)C | C2H6OS
product | ethyl 2-(5-chloro-2-nitroanilino)benzo[b]thiophene-3-carboxylate | 3.2 g | ClC=1C=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C1)[N+](=O)[O-] | C17H13ClN2O4S
